Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
" I don't want to keep going on like this"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:

"Ms. ___ reports being sent from her primary care office
after saying that she "would rather kill herself than continue
living like I have been living." She contextualizes this, saying
that she was previously abusing several substances and that she
does not like relying on others (she has been staying with her
brother, ___ She is trying to straighten out her social
security payments, get connected to healthcare, get housing, 
etc.
She says that she is chronically somewhat depressed due to her
life stressors (substance abuse history, separation from her
husband, conflicts with her son) and thinks about suicide but
does not actively intend to kill herself. She is not sure 
exactly
why she was admitted to ___ three weeks ago and is not
sure whether it was helpful or what aftercare plans were in
place. She was interested in potentially going to a ___, but 
only
if she would be in a single room, not around smokers, and that
they were working on housing for her. She did not way to go to
___. She frequently makes other demands, asking for ice
cream, a milkshake, demanding other food. She denies symptoms of
mania or psychosis at this time. She denies neurovegetative
symptoms of depression and describes herself as a high energy
person. She is frustrated by her cognitive deficits secondary to
her recent stroke and is afraid of having more strokes or more
seizures. She is worried about her seizures, as she fractured 
her
wrist after falling during a seizure earlier this month. She
enjoys going shopping and looks forward to a day when she is on
SSDI for psych and physical reasons as she expects this will 
land
her with a nice income and a nice apartment."

Per Dr ___ ___ ED Initial Psychiatry Consult note
"While initial notes report that patient was brought in on a S12
from ___ for SI, EMS report notes that patient came 
due
to concerns of seizure/running out of seizure meds.

Per ___ health note, patient presented to establish care. 
Health problems include s/p stroke ___, breast cancer,
depression, and eating disorder (currently not active but does
see herself as obese).  Patient told them that she moved to
___ from ___ on ___.  She had been at a ___ 
but
was robbed and beaten, and so then moved in with her
foster-brother, who accompanied her to the appointment.  Meds
listed at Cogentin, thorazine, Topamax, Wellbutrin, gabapentin,
levothyroxine (no doses listed); meds from ___ were
transferred to ___ (___).  ___ note
does not mention suicidality.

Patient tells me that her medications include synthroid 0.175mcg
daily, Wellbutrin (unknown dose) 4x day, gabapentin up to 4x day
for pain and seizures, Topamax 2x day for seizures, thorazine
___ for seizures (initially said ___ QHS--when I clarified
that this medication is not generally used for seizures and can
sometimes exacerbate them, she told me that "Dr. ___ at
___ told her it was for seizures).  I called ___
pharmacy to confirm med list, and they had a different med list
and said that nothing had been filled with them since ___. 
Their medication list including lorazepam, vicodin, gabapentin
400mg BID, quetiapine 200mg QHS.  Currently trying to obtain
discharge summary from ___ to confirm discharge 
medication
list.

On exam this morning, patient initially denies SI and says she
wants to go home.  When I discuss with her the fact that her
brother has said that she cannot live with him anymore, she says
that she does not believe me and needs to hear it from him.

I spoke to her brother, ___.  He says that patient was briefly
at ___ a few weeks ago, but left too soon.  She
intermittently makes suicidal statements.  He is concerned about
her ability to care for herself; he was very scared by her
seizure 2 nights ago.  He says that he has been trying for the
past week to connect her to social work and outpatient services
to connect her to better care, but she keeps not following up. 
He notes that she has diagnosed with bipolar disorder, and has
intense mood swings throughout the day.  He thinks she is
compliant with her medications.  He also says that it's hard for
her to think clearly and move well because of her stroke.  He
said that she has been calling him from the emergency room to
threaten him: saying "I'm going to punish you," and "you don't
now what is in store for you."  He said that patient has never
been violent towards him before, but she does throw objects and
destroy property.  I counseled ___ to tell patient that she
could no longer live with him, and to be prepared to call police
for trespassing if she returns over his objections.

On ___ review, patient filled prescriptions for lorazepam as
follows:
___ rx 2mg PO BID from ___ in ___
___ rx 1mg PO TID from ___ ___
called and left a message for further information [also rx for
gabapentin 800mg QID]
___ rx for 1mg PO TID by ___ (___)

On subsequent assessment, patient says that her brother is being
difficult but that she is willing to go inpatient.  She goes off
on tangents about various things that have not helped her (e.g
placement in ___. She has difficulty telling me how much
lorazepam she is prescribed/taking.  She says that ___ will
deny knowing her but provides consent to reach out to them.

Records received from ___ HRI; patient hospitalized there
___ to ___.  Patient presented with 
depression/anxiety/SI
in the context of ___ homelessness; ex-husband and son did not
allow her to stay with them.  Note describes patient as
"irritable, angry, agitated, demanding and very difficult to
please."  Patient started on home meds with moderate improvement
and some adjustments (details unclear).  Patient ate well on the
unit without evidence of eating disorder.  There is a note 
saying
that patient refused discharge due to not wanting to go to a
shelter.

Discharge medications were:
Wellbutrin SR 300mg PO once daily
clonidine 0.1mg PO BID for anxiety
thorazpine 50mg QHS for insomnia
colace 100mg PO BID
ferrous gluconate 324 ___ Fe) daily for anemia
Syntrhoid ___ q7am
lorazepam 1mg PO QHS
levofloxacin 750mg PO for RLL PNA
miralax 17gm/daily for constipation
gabapentin 800mg four times daily for seizure
omerazone 20mg PO daily for GERD and nightly for delayed release
for GERD
prazosin 2mg PO QHS for PTSD
Topamax 50mg PO BID for seizures
Trazodone 50mg PO QHS for insomnia
Vitamin D 1000 units daily (s/p gastric bypass)
PRN tylenol for arm pain
PRN chlorpromazine 25mg Q4H PRN agitation
PRN lorazepam 1mg Q6H PRN anxiety not responding to vistaril

In the ED, patient remained under good behavioural control. On
___ she received 1 mg Ativan x2; gabapentin 400 mg. On ___
Patient recieved Levothyroxine Sodium 175 mcg, PARoxetine 60 mg,
and Pantoprazole 40 mg.

On interview today, patient endorses significant depressed mood
surrounding her current situation. She states that she feels her
mood has not been the same since her stroke in ___. She
states it has led to a change in her behavior and that this led
to her falling out with her son. She endorses significant guilt
surrounding her behaviors that led to her current situation. She
endorese suicidal thinking that she "cant accept living in these
terms." She shares that she has no right to anything and she
regrets her past behaviors including her substance use. She
reports she started to have seizures since the stroke, which
present as shaking movements, and states that she is mostly 
alert
during these episodes. She states that recently she is "seeing
her mother at the ends of her seizures consistently who is
deceased. She states "I cannot tell if she is coming to get me".
She discussed that her goals for this admission she wants to
improve her mood and come up with a aftercare plan for discharge
that will allow her continued supports. Currently she reports
that she is feeling safe, and denies any active suicidal
ideation. She denies any auditory or visual hallucinations. 
 
Past Medical History:
CVA in ___
s/p Wrist Fracture ~8 weeks ago, is meant to follow up for
possible cast removal next week.
Unclear seizure disorder. Last seizure was ___.
hypothyroidism
h/x of gastric bypass
h/x breast cancer
 
Social History:
___
Family History:
-Psychiatric Diagnoses: Son with autism
-___ Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Poor dentition. Moist mucous
membranes, oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales noted.
-Abdominal: Non-distended, bowel sounds normoactive.  Reported
slight tenderness diffusely.  No guarding, no rebound 
tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
Right arm in pink  cast. 

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-Gait: Good initiation.  Slightly wide base. Normal stride and
arm swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Pt's initial clinical exam could be summarized as 
anxious-dysphoric syndrome. She claimed that her mood was "OK", 
she placed level of anxiety at low moderate range (___), 
formally denied S/I:"I am not suicidal". Her affect was labile,
irritable, angry. Using foul language. She is switching betw 
worthlessness ("I am piece of sh---") and entitlement with 
multiple requests:"I need you to do..." (presents with long list 
of expectations including housing). 
On formal exam: A, Ox, ___, place, person, situation, she 
knows that she has been in the in hospital for 3 days. 
Registered ___, recalled ___ after 5 min delay. Simple 
attention: 7df (grossly intact). Concentration 4db (mildly 
decreased).

 
Pertinent Results:
___ 07:45PM   GLUCOSE-92 UREA N-16 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-23 ANION GAP-13
___ 07:45PM   ALT(SGPT)-17 AST(SGOT)-24 ALK PHOS-99 TOT 
BILI-0.2
___ 07:45PM   LIPASE-61*
___ 07:45PM   CALCIUM-8.8 PHOSPHATE-4.4 MAGNESIUM-1.8 
CHOLEST-178
___ 07:45PM   %HbA1c-5.8 eAG-120
___ 07:45PM   TRIGLYCER-89 HDL CHOL-49 CHOL/HDL-3.6 
LDL(CALC)-111
___ 07:45PM   TSH-0.81
___ 07:45PM   HCG-5
___ 07:45PM   WBC-5.9 RBC-3.92 HGB-10.5* HCT-33.3* MCV-85 
MCH-26.8 MCHC-31.5* RDW-15.5 RDWSD-48.2*
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was placed on q15 minute checks 
status on admission. Given patient's provocative suicidal 
statements and intermittent outbursts, patient was changed to q5 
minute checks and restricted sharps. Of note, once patient's 
status was changed to restricted sharps and q5 minute checks, 
the patient reported that she never intended to harm herself and 
retracted her suicidal statements. 

2. PSYCHIATRIC:
On initial interview in the emergency room, Mr. ___ reported 
chronic depression due to her life stressors (substance abuse 
history, separation from her husband, conflicts with her son) 
and thinks about suicide, but denied actively intending to kill 
herself. She reported that she was trying to straighten out her 
social security payments, get connected to healthcare, get 
housing etc. She was noted to frequently make other demand, such 
as asking for ice cream, a milkshake, and demanding other food. 
On admission to the inpatient unit, the patient denied active 
suicidal ideation. During hospitalization, that patient 
continued to focus on assistance with housing, her dog in a 
shelter, and social security.  Multiple medication options were 
discussed with the patient, and prior pharmacy records were 
obtained. The patient's thorazine was discontinued and patient 
consented to start Latuda, which was up-titrated to 40 mg QHS. 
However, after a few days of taking Latuda, patient refused to 
continue the medication, reporting that the medication "made her 
cry." After a discussion with the patient, the patient was 
restarted on thorazine 10 mg QHS. Throughout hospitalization, 
patient was irritable and angry, often with outburst with 
profanity. Once the team started to discuss discharge planning, 
the patient became provocative, stating that she would commit 
suicide if discharged to a shelter. However, throughout 
hospitalization, the patient was continually future oriented, 
focusing on obtaining housing, obtaining her social security 
check, and having her dog become a ___ dog. No evidence of 
depression, mania, or psychosis. She appeared to use borderline 
defense mechanisms, and often attempted to split staff, 
requiring the entire team to meet with the patient together each 
day. The patient also frequently requested high doses of 
benzodiazepines, and perseverated on wanting Klonopin 
specifically. The team counseled the patient on the risks of 
long term use of benzodiazepines, however the patient was 
resistant to engage in a discussion about this. The patient 
agreed to apply for ___ services, and a ___ application was 
submitted. 

Throughout hospitalization, the team emphasized the importance 
of close outpatient follow up. The patient was recommend to 
follow up with a partial hospitalization program. ___ and 
___ were suggested to the patient. The patient refused 
PHP.
The patient was discharged with a follow up appointment with her 
PCP at ___ and additional resources for psychiatric follow 
up. Patient reported being in touch with Dr. ___, 
a PCP that she has seen years ago, and he is going to help 
arrange "a transfer."  Patient stated that she will go to ___ if 
she feels unsafe after discharge. The patient signed a release 
for Dr. ___ to speak with Dr. ___ reported that she 
is not currently his patient and is not arranging a transfer.

As inpatient treatment progressed, it became a very difficult 
situation. It was clear that there was no common treatment goal, 
patient's behaviors could be characterized
as abusive towards the staff, pt also has been negatively 
affecting milieu (e.g., encouraging other clients to decline 
ECT). On the other hand, pt makes conditional suicidal 
statements: e.g., she was threatening suicide last week if she
was discharged to the ___. Last days of treatment, pt made 
threats to kill herself because she "undermedicated" and she 
needed more time to be in the hospital. Considering pt's 
clinical presentation, and behavioral pattern over the hospital 
course, I believe that discharge would be the most helpful 
intervention for pt. Ms. ___
requires intensive outpatient treatment program (PHP, preferably 
for individuals with dual diagnoses). There were no legal 
grounds to impose treatment against patient's will. Pt 
effectively declined or sabotaged treatment/referral options 
offered to her.
Pt was again reminded about upcoming discharge and encouraged to 
accepts assistance we could offer. Despite pt's angry outbursts, 
she was reminded about her agency and past accomplishments. Pt 
was also reminded about positive choices she made (several
examples were mentioned to her).

3. SUBSTANCE USE DISORDERS:
Patient with a history of methamphetamine and cocaine use. She 
reports not using for past few months. STox/UTox in ED was 
negative. She continued to report motivation to continue 
abstinence from substances during hospitalization, as she would 
like to repair her relationship with her son. However, she 
continually asked for high doses of benzodiazepines throughout 
admission. The team counseled the patient on the risks of long 
term benzodiazepine use. 

4. MEDICAL
#Right Wrist Fracture
On admission, patient's right forearm was in a cast placed by an 
OSH. Patient was seen by hand surgery, who removed the cast. She 
was given a prefab splint and advised light use only. Patient 
given acetaminophen PRN for pain. Patient to follow up with 
___ hand clinic ___ at 3:30 ___. 

# Pseudoseizures
Patient reported having a history of seizures, and reported 
multiple recent episodes prior to hospitalization. On ___, 
patient reported having a seizure. ___ medical records 
were obtained. Per ___ records, MRI brain and CT head 
shows no acute abnormalities; however, nonspecific white matter 
changes are present, though these most likely are related to 
gliosis secondary to small vessel ischemic changes. Continuous 
EEG was apparently done at ___ showing intermittent scattered 
bilateral slowing and occasional right anterior temporal sharp 
transients, though this did not meet criteria for epileptiform 
discharges. Neurology was consulted. Per neurology, the 
patient's current seizure-like episodes that have occurred since 
her
stroke are atypical and more likely represent pseudoseizures.  
Neurology was also concerned about benzodiazepine-seeking 
behavior. No indication for AEDs.

#Hypothyroidism
Patient was continued on her home levothyroxine 175 mcg PO qAM. 
TSH wnl. 

#Hx gastric bypass:
Patient was continued on her home vitamin D. Ferrous gluconate 
was continued, however patient frequently refused this 
supplement. Nutrition was consulted and discussed with patient 
eating a healthy, well rounded diet, discussed menu options 
while in house, and provided patient with a healthy nutrition 
handout. 

#Constipation:
The patient was continued on her home regimen of docusate sodium 
100  mg BID and polyethylene glycol 17 g daily. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. She was 
often noted to be irritable, disinhibited, and using profanity 
with staff and peers in groups and in the milieu.  During 
hospitalization patient was sharps restricted after making 
provocative comments to staff, and afterwards perseverated on 
wanting to attend projects groups. When offered alternative 
activities she declined. In addition, nursing staff noted that 
patient would make provocative statement in the milieu, 
complaining about her team and discharge plans, upsetting other 
patients. The patient was also noted to encourage other patients 
to not participate in their treatment. 

#) Homelessness
Social work met with patient extensively during hospitalization. 
Patient rejected multiple housing options including sober 
housing, transitional programs or shelters. The patient often 
expressed interest in housing options that were not affordable. 
The patient reported that her foster brother was able to receive 
her disability check ($1198) and she has access to her money. At 
discharge, the patient reported that she had multiple places to 
stay, although was not able to engage in a meaningful 
conversation with staff about her options. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT

Per Dr. ___ patient's evaluation in the ED, 
patient's brother reported that he has been trying to connect 
patient to outpatient services, however she kept not following 
up. 

Patient refused for the inpatient psychiatric team to have 
contact with her brother, however her brother did visit the 
patient on the inpatient unit without incident. 

Records from patient's prior hospitalization at ___ were 
obtained in the ED. The patient was hospitalized there from 
___ to ___. Patient presented with depression/anxiety/SI 
in the context of ___ homelessness. Per ___ records, patient 
was refusing to be discharged and refusing a shelter.  She 
threatened to hurt herself if she was discharged. She was 
described as "irritable, agitated, and verbally abuse towards 
staff."

The team attempted to contact patient's previous outpatient 
provider in ___, Dr. ___, however did not hear 
back from provider. 

#) INTERVENTIONS
- Medications: see above 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient discharged with 
appointments with her PCP at ___ and the ___. Patient 
refused appointment at ___, however was given multiple resources 
for psychiatric follow up. 
-Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Thorazine, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and others. Her static risk 
factors include history of suicide attempts, history of 
substance abuse, recent discharge from an inpatient psychiatric 
unit, Caucasian race, and marital status. Her modifiable risk 
factors included passive SI, impulsivity, lack of engagement 
with outpatient treatment, and limited social supports.  Of 
note, on admission, patient denied SI. However, in the context 
of discharge planning, the patient made conditional suicidal 
statements, stating that she would kill herself if she is 
discharged to a shelter. Throughout hospitalization, however she 
displayed significant future oriented behavior regarding 
searching for housing and securing her social security payment. 
She also reports a goal of having her dog declared a service dog 
so he is able to live with her. Once the patient's sharps status 
was changed due to her provocative statements, the patient 
retracted her statements and denied any intent to harm herself. 
In addition, the patient displayed a great deal of knowledge 
about the resources available to her. She reports motivation to 
reconcile with her son. She  does not have evidence of 
depression. No hopelessness or worthlessness. No symptoms of 
psychosis. Patient's other protective factors include good 
intellect, education, and help seeking behavior. She has a 
history of being able to establish working relationships with 
outpatient providers. Although the patient is chronically at 
risk of self harm, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to the above protective 
factors. 

Our Prognosis of this patient is guarded.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO DAILY 
2. CloNIDine 0.1 mg PO BID 
3. ChlorproMAZINE 50 mg PO QHS 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous GLUCONATE 324 mg PO DAILY 
6. Levothyroxine Sodium 175 mcg PO Q6AM 
7. LORazepam 1 mg PO QHS 
8. Polyethylene Glycol 17 g PO DAILY constipation 
9. Gabapentin 800 mg PO QID 
10. Omeprazole 20 mg PO DAILY 
11. Prazosin 2 mg PO QHS 
12. Topiramate (Topamax) 50 mg PO BID 
13. TraZODone 50 mg PO QHS 
14. Vitamin D 1000 UNIT PO DAILY 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
16. ChlorproMAZINE 25 mg PO Q4H:PRN agitation 
17. LORazepam 1 mg PO Q6H:PRN anxiety 

 
Discharge Medications:
1.  ChlorproMAZINE 25 mg PO QHS 
RX *chlorpromazine 25 mg 1 tablet(s) by mouth at night Disp #*4 
Tablet Refills:*0 
2.  LORazepam 1 mg PO BID:PRN anxiety/agitation/insomnia 
RX *lorazepam 1 mg 1 mg by mouth twice a day Disp #*6 Tablet 
Refills:*0 
3.  Topiramate (Topamax) 50 mg PO DAILY  
RX *topiramate 50 mg 1 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
4.  Topiramate (Topamax) 100 mg PO QHS mood dos, chronic 
RX *topiramate 100 mg 1 tablet(s) by mouth at bedtime Disp #*4 
Tablet Refills:*0 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  CloNIDine 0.1 mg PO BID 
RX *clonidine HCl 0.1 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0 
7.  Docusate Sodium 100 mg PO BID  
8.  Ferrous GLUCONATE 324 mg PO DAILY 
RX *ferrous gluconate 324 mg (36 mg iron) 1 tablet(s) by mouth 
daily Disp #*4 Tablet Refills:*0 
9.  Gabapentin 800 mg PO QID 
RX *gabapentin 800 mg 1 tablet(s) by mouth four times a day Disp 
#*12 Tablet Refills:*0 
10.  Levothyroxine Sodium 175 mcg PO Q6AM 
RX *levothyroxine 175 mcg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
11.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*4 
Capsule Refills:*0 
12.  Polyethylene Glycol 17 g PO DAILY constipation  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Borderline Personality Disorder
PTSD

 
Discharge Condition:
Vitals T 98.0 BP 138/82 HR 85 RR 18 O2 95% RA
Appearance: Multiple tattoos, bracelets, well groomed.  
Behavior:
  *Mood and Affect: irritable, defiant 
  *Thought process: Linear, coherent, without loose 
associations.
  *Thought Content: No apparent delusions or paranoia. No
apparent obsessions or compulsions. No apparent internal stimuli
or audiovisual hallucination. History of making suicidal 
statements in the context of discussing discharge, however 
future oriented viewpoint 
  *Judgment and Insight:
Judgment: limited as signaled by impulsivity 
Insight: poor 

  Cognition:
    *Attention, *orientation, and executive function: Attentive 
to interview
    *Memory: short and long term memory appears intact
    *Fund of knowledge: Appropriate for education.
    *Speech: Appropriate
    *Language: Appropriate. Native speaker, w/o paraphasic 
error.
No obvious idiosyncratic language. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___